US08541421B2
5,6-Dimethyl-2-phenylthieno[2,3-d]pyrimidin-4-amine
A mixture of 2-amino-4,5-dimethylthiophene-3-carbonitrile (152 mg, 1.0 mmol), ammonia acetate (308.3 mg, 4.0 mmol) and triethyl orthobenzoate (2.0 mL) in a sealed tube was put in a microwave at 200° C. for 20 min. After the reaction mixture was cooled to room temperature, it was diluted with EtOAc, washed with saturated NaHCO3 and H2O. The solvent was removed by vacuum and the residue was purified by preparative HPLC eluting with acetonitrile and water to give the title compound (80 mg, 31%). 1H NMR (400 MHz, CDCl3) δ2.45 (s, 3H), 2.48 (s, 3H), 5.34 (bs, 2H), 7.46-7.43 (m, 3H), 8.4-8.38 (m, 2H). MS 256 (MH+).

reactant | 2-amino-4,5-dimethylthiophene-3-carbonitrile | 1.0 mmol, 152 mg | NC=1SC(=C(C1C#N)C)C | C7H8N2S
reactant | ammonia acetate | 4.0 mmol, 308.3 mg | C(C)(=O)O.N
reactant | triethyl orthobenzoate | 2.0 mL | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5,6-Dimethyl-2-phenylthieno[2,3-d]pyrimidin-4-amine | 80 mg, 31% | CC1=C(SC=2N=C(N=C(C21)N)C2=CC=CC=C2)C | C14H13N3S
